US04897391
Shake a 25° C. mixture of 1,2,3,4-tetrahydro-8,10,11-trihydroxy-6H-benzo[b]quinolizin-6-one (2.00 g), rodium-on-aluminum oxide (1.10 g), and tert.-butanol (220 ml) containing acetic acid (1 ml) under a hydrogen pressure of 60 psi. For continuous shaking of the pressurized mixture, use a Paar apparatus; and for complete reaction, shake the mixture for at least 72 hrs. Then open the vessel and filter the mixture, washing the collected catalyst with tert.-butanol. Combine and concentrate the filtrates, and partition the residue between ethyl acetate and IM sodium bicarbonate solution. Sequentially wash the separated organic layer with 0.1N hydrochloric acid solution, with water, and with brine. Filter the dried solution and concentrate it to obtain 1,2,3,4-tetrahydro-8,10-dihydroxy-6H-benzo[b]quinolizin-6-one, m.p.214°-215° C. (from EtOAc).

reactant | 1,2,3,4-tetrahydro-8,10,11-trihydroxy-6H-benzo[b]quinolizin-6-one | 2.00 g | OC1=CC2=C(C(=C3CCCCN3C2=O)O)C(=C1)O | C13H13NO4
reactant | tert.-butanol | 220 ml | C(C)(C)(C)O | C4H10O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,4-tetrahydro-8,10-dihydroxy-6H-benzo[b]quinolizin-6-one | OC1=CC2=C(C=C3CCCCN3C2=O)C(=C1)O | C13H13NO3
